### ISSUE TITLE
Typeclass instance problem stuck for fields of class dependent on class with `outParam`

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#10055]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In a `class Y [X n]` dependent on another class `X` with an output parameter `n`, the automatically determined signatures of fields contain `X n` as implicit parameter, even if there is no way other than typeclass inference to synthesize this parameter. As a consequence when applying a field of such a class, typeclass synthesis frequently gets stuck.

### Steps to Reproduce

Run [this](https://live.lean-lang.org/#project=lean-nightly&codez=MYGwhgzhAEAa0AoB20Bc0D2BXALgBTACcwBbaAOTBwEpoB3ACwFNCmAoN0SGATWgG14SALr1mrNtGgAzAJZMQAEzTQAak2A4MhClWhIOspBBxgkwJivgAGMS3ZsjJsxZV9G9yTPlK0AXmgAYgA3fmEOAFoIigwcSxwGPQADISToWRgzdJIABxBZYFkcaByiUiY4wgA6NgB6KPSkaQx0Hiq5BWUAbxR0ShwAX2gupxxAXHIrfSH+CAVpN1F0dU1tXWKUCNq2QIBzLCJFAH0SCB2YI23gZmAAa2g2jqUORSZ5h59FAHJh3rXpoVEMzmCxUyy0On6+n8XnenQ49QAhNAACrMaBgXAYCI7JhIFhUJjKR7KHKEDAAKw0OFkGBQGRKZIARiAmCQqAV0Jt4VE2CwyYR0DgAJ45DTgKCNZzmSykjDM1npGAmLC3AA06WK9Iw0jiKEUWHiGGgJAqYGCRFkYHlEBhbC5u32hCOJzOjV5AA9SHlLK12h9oAFbKgAoyhV5CNIQNykQB1IoMTBYHRspD7EAgIXQF5yPEksmUzQ0pDqor0bQ3CCcrZ26IAZRVFkJMDo8eNZjTWdeRiKRbsrGgSUE+mEaXpWVGLhlZRNlQ9XpZbj9nW+gf80FD4cjbCAA):

```lean
class X (n : outParam Nat) where

class Y [X n] where
  field : Vector Nat n

instance : X 0 where

instance : Y where
  field := #v[]

-- Note that `X n` is an implicit parameter.
/-- info: Y.field {n : Nat} {inst✝ : X n} [self : Y] : Vector Nat n -/
#guard_msgs in
#check Y.field

def Y.field' {n : Nat} [X n] [self : Y] : Vector Nat n :=
  Y.field

/-! The auto-generated field projection is problematic: -/

/--
error: typeclass instance problem is stuck, it is often due to metavariables
  Y
-/
#guard_msgs in
example : Y.field = 0 := by
  rfl

/-! With our manually defined projection, it works: -/

-- Succeeds with manual definition where `[X n]` is an instance parameter
example : Y.field' = 0 := by
  rfl
```

**Expected behavior:**

In the signature of the projection `Y.field`, sufficiently many parameters are explicit or instance parameters so that type inference does not get stuck.

In particular, the parameter of type `X n` should be an instance parameter, not an implicit parameter.

**Actual behavior:**

`Y.field` has an implicit parameter of type `X n`, causing Lean to fail synthesizing `Y`.

### Versions

```
Lean 4.24.0-nightly-2025-08-21
Target: x86_64-unknown-linux-gnu
```

### Context

For the polymorphic range library, I'm trying out to define the `SupportsLowerBound` class using an `outParam`:

```lean
/--
This typeclass provides decidable lower bound checks of the given shape.

Instances are automatically provided in the following cases:

* `shape` is `open` and there is an `LT α` instance
* `shape` is `closed` and there is an `LE α` instance
* `shape` is `.unbounded`
-/
class SupportsLowerBound (shape : BoundShape) (α : Type u) (P : outParam (Bound shape α → α → Prop)) where
  decidable : DecidableRel P := by infer_instance
```

Previously, `P` was a field of the class and it was tedious and annoying to unfold `SupportsLowerBound.IsSatisfied` everywhere, because usually one knows that it's induced by `LE` or `LT`. Using an `outParam` makes this class more convenient to use -- in theory. In practice, I also have this typeclass:

```lean
/--
This typeclass ensures that ranges with the given shape of upper bounds are always finite.
This is a prerequisite for many functions and instances, such as `PRange.toList` or `ForIn'`.
-/
class HasFiniteRanges (shape α) {P} [UpwardEnumerable α] [SupportsUpperBound shape α P] : Prop where
  finite : (init : α) → (u : Bound shape α) → ∃ n, (UpwardEnumerable.succMany? n init).elim True (¬ P u ·)
```

But with this new signature of `SupportsUpperBound`, `finite`'s signature contains `SupportsLowerBound` as an *implicit* parameter instead of an instance parameter. When simply using `HasFiniteRanges.finite init u`, Lean is is unable to assign the metavariable for this implicit parameter.

A workaround is to define `HasFiniteRanges` directly as an `inductive` type and to define the `finite` by hand, choosing `SupportsUpperBound` to be an *instance* parameter. But this is very annoying and there are more classes where I would need to do this.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by JovanGerb** [comment]
Note that this issue is the same as the (P-low) issue #9727, and this bug was introduced in #5376.

I was also working on a fix to this in #9638.
